US07514470B2
C. 4-[(2,2-Dimethylpropyl)(2-oxoethyl)amino]-2-(trifluoromethyl)benzonitrile
To a solution of 4-[(2,2-dimethylpropyl)(2-propen-1-yl)amino]-2-(trifluoromethyl)benzonitrile (1.46 g, 4.95 mmol) in THF/water (20:1, 45 mL) at rt was added a solution of OSO4 (1.02 g of a 2.5 wt % solution in t-BuOH, 0.10 mmol) in THF/water (20:1, 5 mL), followed by NMO (1.22 g, 10.4 mmol) in one portion. The resulting mixture was stirred 22 hours at rt, cooled to 0° C. and sodium bisulfite (0.300 g) was added in one portion. The mixture was stirred 1 h, filtered through a pad of Celite (EtOAc wash) and the filtrate/washings were partitioned between EtOAc/water (required addition of NaCl to separated layers). The aqueous layer was extracted with EtOAc (×1), combined organics were washed with brine and concentrated in vacuo. The residue was dissolved in acetone (50 mL), a solution of NalO4 (2.22 g; 10.4 mmol) in water (20 mL) was added, the mixture was stirred two hours at rt and partially concentrated in vacuo to an aqueous residue. The residue was partitioned between EtOAc/water and the aqueous layer was further extracted with EtOAc (×1). Combined organics were washed (water, brine), dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by flash chromatography (EtOAc/hexanes), affording 1.20 g of the title compound as a colorless solid: 1H NMR (400 MHz, CDCl3) δ 9.70 (s, 1H), 7.57 (d, J=8.8 Hz, 1H), 6.96 (d, J=2.5 Hz, 1H), 6.74 (dd, J=8.9, 2.7 Hz, 1H), 4.31 (s, 2H), 3,33 (s, 2H), 1.02 (s, 9H).

reactant | 4-[(2,2-dimethylpropyl)(2-propen-1-yl)amino]-2-(trifluoromethyl)benzonitrile | 4.95 mmol, 1.46 g | CC(CN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC=C)(C)C | C16H19F3N2
reactant | NMO | 10.4 mmol, 1.22 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | sodium bisulfite | 0.300 g | S([O-])(O)=O.[Na+]
solvent | THF water | 45 mL | C1CCOC1.O
solvent | t-BuOH | CC(C)(C)O | C4H10O
solvent | THF water | 5 mL | C1CCOC1.O
product | 4-[(2,2-Dimethylpropyl)(2-oxoethyl)amino]-2-(trifluoromethyl)benzonitrile | 1.20 g | CC(CN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CC=O)(C)C | C15H17F3N2O
